US06887871B2
a) [3-(6-Bromo-3-pyridinyl)-3-oxopropyl] carbamic acid, 1,1-dimethylethyl ester
The sub-title compound was prepared from 2,5-dibromopyridine and [3-(methoxymethylamino)-3-oxopropyl carbamic acid, 1,1-dimethylethyl ester by the method of Example 58(a).

reactant | 2,5-dibromopyridine | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | 3-(methoxymethylamino)-3-oxopropyl carbamic acid, 1,1-dimethylethyl ester | COCNC(CCNC(OC(C)(C)C)=O)=O | C10H20N2O4
product | [3-(6-Bromo-3-pyridinyl)-3-oxopropyl] carbamic acid, 1,1-dimethylethyl ester | BrC1=CC=C(C=N1)C(CCNC(OC(C)(C)C)=O)=O | C13H17BrN2O3
